US07034034B2
The solution of 2-amino-1-(3-trifluoromethyl-phenyl)-ethanone hydrochloride (50.2 mmol), trans-cyclohexane-1,4-dicarboxylic acid monomethyl ester (50.2 mmol), triethylamine (100.4 mmol) and BOP (50.2 mmol) in DMF (100 mL) was stirred overnight at room temperature. The mixture was diluted with water, extracted with EtOAc, washed with saturated NaHCO3 and brine, dried over Na2SO4, and concentrated under vacuum. The residue was triturated with ether and the precipitate was collected. The precipitate was mixed with NH4OAc (930 mmol) and 200 ml of AcOH and refluxed overnight. The excess AcOH was removed and purification by flash chromatography (95:5 CH2Cl2/MeOH) gave trans-4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexyl-carboxylic acid methyl ester.

reactant | 2-amino-1-(3-trifluoromethyl-phenyl)-ethanone hydrochloride | 50.2 mmol | Cl.NCC(=O)C1=CC(=CC=C1)C(F)(F)F
reactant | trans-cyclohexane-1,4-dicarboxylic acid monomethyl ester | 50.2 mmol | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
reactant | triethylamine | 100.4 mmol | C(C)N(CC)CC | C6H15N
reactant | BOP | 50.2 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | AcOH | 200 ml | CC(=O)O | C2H4O2
product | trans-4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexyl-carboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C18H19F3N2O2
